US08426447B2
A vial was charged with (R)-2′-bromo-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (0.050 g, 0.120 mmol), tetrakis(triphenylphosphine)palladium (0) (0.014 g, 0.012 mmol), 2-(tributylstannyl)pyridine (0.132 g, 0.359 mmol), and dioxane (0.6 mL). The reaction was stirred overnight at 100° C. The mixture was diluted with DMSO and filtered through a syringe filter, which was flushed with additional DMSO. The material was purified via Gilson HPLC (10-90% MeCN:H2O). The clean product fractions were partitioned between DCM and saturated sodium bicarbonate solution. The aqueous layer was extracted with DCM, and the combined organic layers were dried with sodium sulfate, filtered, and concentrated to afford (S)-2′-(neopentyloxy)-7′-(pyridin-2-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine as a white solid. MS MH+ 416.4

reactant | (R)-2′-bromo-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 0.120 mmol, 0.050 g | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)OCC(C)(C)C)N=C(OC3)N | C20H21BrN2O3
reactant | 2-(tributylstannyl)pyridine | 0.359 mmol, 0.132 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | tetrakis(triphenylphosphine)palladium | 0.012 mmol, 0.014 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2′-(neopentyloxy)-7′-(pyridin-2-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | C(C(C)(C)C)OC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C1=NC=CC=C1)N=C(OC3)N | C25H25N3O3
